US04374829
A mixture of 3-methyl-2-oxobutyric acid sodium salt (1.46 g) and L-alanyl-L-proline (0.40 g) was treated with sodium cyanoborohydride (0.41 g) as described above. Crude N-(1-carboxy-2-methylpropyl)L-alanyl-L-proline (0.45 g) was obtained by elution from ion-exchange resin. The product melted at 131°-142°. The nmr spectrum shows complex absorption in the 4.6 to 3.3 region, a broad multiplet centered at 2.2 and doublets at 1.65 and 1.1 ppm.

reactant | 3-methyl-2-oxobutyric acid sodium salt | 1.46 g | [Na+].CC(C(C(=O)[O-])=O)C
reactant | L-alanyl-L-proline | 0.40 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | 0.41 g | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-2-methylpropyl)L-alanyl-L-proline | 0.45 g | C(=O)(O)C(C(C)C)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H22N2O5
